US07435828B2
2-[(Z)-n-butylimino]-3-(2-methylphenyl)-thiazolidin-4-one is prepared following Method B and starting from o-tolylamine, chloroacetyl chloride and n-butylisothiocyanate. LC-MS: tR=0.77 min, [M+1]+=263, 1H NMR (CDCl3): δ 7.35-7.28 (m, 3H), 7.14-7.10 (m, 1H), 4.01 (s, 2H), 3.38-3.22 (, 2H), 2.18 (s, 3H), 1.59-1.47 (m, 2H), 1.38-1.25 (m, 2H), 0.90 (t, J=7.0 Hz, 3H).

reactant | o-tolylamine | CC=1C=CC=CC1N | C7H9N
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | n-butylisothiocyanate | C(CCC)N=C=S | C5H9NS
product | 2-[(Z)-n-butylimino]-3-(2-methylphenyl)-thiazolidin-4-one | C(CCC)\N=C\1/SCC(N1C1=C(C=CC=C1)C)=O | C14H18N2OS
